US07238723B2
A slurry of eletriptan hydrobromide monohydrate (6.5 g) in acetone (97.5 ml) was heated under reflux for three hours and then cooled and filtered. The filtered solid was washed with acetone (6.5 ml) and dried under reduced pressure to give anhydrous eletriptan hydrobromide (5.78 g).

reactant | eletriptan hydrobromide monohydrate | 6.5 g | CN1CCC[C@@H]1CC2=CNC3=C2C=C(C=C3)CCS(=O)(=O)C4=CC=CC=C4.O.Br
solvent | acetone | 97.5 ml | CC(=O)C | C3H6O
product | eletriptan hydrobromide | 5.78 g | CN1CCC[C@@H]1CC2=CNC3=C2C=C(C=C3)CCS(=O)(=O)C=4C=CC=CC4.Br | InChI=1S/C22H26N2O2S.BrH/c1-24-12-5-6-19(24)15-18-16-23-22-10-9-17(14-21(18)22)11-13-27(25,26)20-7-3-2-4-8-20;/h2-4,7-10,14,16,19,23H,5-6,11-13,15H2,1H3;1H/t19-;/m1./s1
